US04144341
1,3-Dihydro-3-(3,4-methylenedioxyphenyl)-2-oxoimidazo[4,5-b]pyridine-1-n-butylcarboxyamide
A suspension of 1.2 g. of 1,3-dihydro-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]pyridin-2-one in 75 ml. of dry dimethoxyethane was treated with 1 g. of n-butyl isocyanate and refluxed until solution was complete. The solution was filtered and evaporated to near dryness and diluted with petroleum ether. The precipitate was recrystallized from 30 ml. of ethanol by addition of water to give 400 mg. of 1,3-dihydro-3-(3,4-methylenedioxyphenyl)-2-oxoimidazo[4,5-b]pyridine-1-n-butylcarboxamide,. m.p. 129°-130° C.

reactant | 1,3-dihydro-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]pyridin-2-one | C1OC=2C=C(C=CC2O1)N1C(NC=2C1=NC=CC2)=O | C13H9N3O3
reactant | n-butyl isocyanate | C(CCC)N=C=O | C5H9NO
reactant | 1,3-dihydro-3-(3,4-methylenedioxyphenyl)-2-oxoimidazo[4,5-b]pyridine 1-n-butylcarboxamide | C1OC=2C=C(C=CC2O1)N1C(NC=2C1=NC=CC2)=O.C(CCC)C(=O)N
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 1,3-Dihydro-3-(3,4-methylenedioxyphenyl)-2-oxoimidazo[4,5-b]pyridine 1-n-butylcarboxyamide | C1OC=2C=C(C=CC2O1)N1C(NC=2C1=NC=CC2)=O.C(CCC)[N-]C(=O)O | InChI=1S/C13H9N3O3.C5H10NO2/c17-13-15-9-2-1-5-14-12(9)16(13)8-3-4-10-11(6-8)19-7-18-10;1-2-3-4-6-5(7)8/h1-6H,7H2,(H,15,17);2-4H2,1H3,(H,7,8)/q;-1
